US09233098B2
7. Preparation of methyl 2-[1-(4-aminobenzyl)-1H-pyrazolo[3,4-b]pyridin-3-yl]acetate
Methyl 2-[1-(4-nitrobenzyl)-1H-pyrazolo[3,4-b]pyridin-3-yl]acetate (75 mg, 0.23 mmol) was dissolved in 10 mL tetrahydrofuran. 10% Pd/C (5 mg) was added, and reacted under hydrogen atmosphere for 2 hours. It was filtered, and the filtrate was rotate evaporated to dryness directly to obtain a white solid 58 mg, at a yield of 87%.

reactant | Methyl 2-[1-(4-nitrobenzyl)-1H-pyrazolo[3,4-b]pyridin-3-yl]acetate | 0.23 mmol, 75 mg | [N+](=O)([O-])C1=CC=C(CN2N=C(C=3C2=NC=CC3)CC(=O)OC)C=C1 | C16H14N4O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | methyl 2-[1-(4-aminobenzyl)-1H-pyrazolo[3,4-b]pyridin-3-yl]acetate | 58 mg, yield of 87% | NC1=CC=C(CN2N=C(C=3C2=NC=CC3)CC(=O)OC)C=C1 | C16H16N4O2
